US09079900B2
B. 4-Ethyl-6-(4-(4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazol-3-yl)phenyl)-3,4-dihydro-pyrazino[2,3-b]pyrazin-2(1H)-one
6-Bromo-4-ethyl-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one (1.1 equiv), 4-(tetrahydro-2H-pyran-2-yl)-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4H-1,2,4-triazole (1 equiv) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane (0.05 equiv) were combined in 1,4-dioxane followed by the addition of sodium carbonate (3 equiv) in water. The solution was heated in a Biotage Emrys Optimizer microwave reactor to 120° C. for 30 min. The solution was condensed under reduced pressure and purified using column chromatography (0-10% methanol in ethyl acetate) to afford the title compound in 45% yield. MS (ESI) m/z 406.6 [M+1]+.

reactant | 6-Bromo-4-ethyl-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 1.1 equiv | BrC=1N=C2C(=NC1)NC(CN2CC)=O | C8H9BrN4O
reactant | 4-(tetrahydro-2H-pyran-2-yl)-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4H-1,2,4-triazole | 1 equiv | O1C(CCCC1)N1C(=NN=C1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H26BN3O3
reactant | sodium carbonate | 3 equiv | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.05 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-Ethyl-6-(4-(4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazol-3-yl)phenyl)-3,4-dihydro-pyrazino[2,3-b]pyrazin-2(1H)-one | 45% yield | C(C)N1CC(NC2=NC=C(N=C21)C2=CC=C(C=C2)C2=NN=CN2C2OCCCC2)=O | C21H23N7O2
